US03940395
A blended mixture of 6.5 g of 4-chloro-6-(2-methoxyethylamino)-2-(4-methoxyphenyl)-pyrimidine and 15.0 g. of p-chlorothiophenol is heated to 160°C. for 3 hours. Thereafter, the reaction mixture is cooled to room temperature and triturated with 60 ml. of 30°/o sodium hydroxide. The product is separated by filtration, washed with water and recrystallized from absolute ethanol to afford 6-(4-chlorophenylthio)-4-(2-methoxyethylamino)-2-(4-methoxyphenyl)pyrimidine, m.p. 117°-118.5°C.

reactant | 4-chloro-6-(2-methoxyethylamino)-2-(4-methoxyphenyl)-pyrimidine | 6.5 g | ClC1=NC(=NC(=C1)NCCOC)C1=CC=C(C=C1)OC | C14H16ClN3O2
reactant | p-chlorothiophenol | ClC1=CC=C(C=C1)S | C6H5ClS
product | 6-(4-chlorophenylthio)-4-(2-methoxyethylamino)-2-(4-methoxyphenyl)pyrimidine | ClC1=CC=C(C=C1)SC1=CC(=NC(=N1)C1=CC=C(C=C1)OC)NCCOC | C20H20ClN3O2S
